US07288544B2
3) Synthesis of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid ethylester:
2.09 g (6.43 mmol) of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid ethylester was dissolved in 30 ml of chloroform. 8.39 g (96.5 mmol) of manganese dioxide was added at room temperature and stirred at 80° C. for 2 hours. After filtration of insoluble matters, the obtained filtrate was concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid ethylester | 6.43 mmol, 2.09 g | C(C)OC(=O)C=1C(N=C(NC1C)SC)C1=CC(=CC=C1)Cl | C15H17ClN2O2S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 96.5 mmol, 8.39 g | [O-2].[O-2].[Mn+4]
product | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid ethylester | C(C)OC(=O)C=1C(=NC(=NC1C)SC)C1=CC(=CC=C1)Cl | C15H15ClN2O2S
